US07342029B2
20 g of P2O5 were admixed with 12.5 ml of H3PO4 (85%), resulting in a strong increase of the temperature of the reaction mixture. The reaction mixture was then cooled to 60° C., and 8.90 g (65.84 mmol) of 4-propionylpyridine and 4.20 g (27.60 mmol) of 4-hydrazinobenzoic acid were added. The mixture was then stirred at 145° C. for 45 min. The reaction mixture was poured into water, resulting in the precipitation of the yellow product 2-pyridin-4-yl-1H-indole-5-carboxylic acid. This precipitate was filtered off with suction and washed with water until neutral. The 2-pyridin-4-yl-1H-indole-5-carboxylicacid, which was obtained by this method in quantitative yield, was used without further purification for coupling with amino acid derivatives.

reactant | P2O5 | 20 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | H3PO4 | 12.5 ml | OP(=O)(O)O | H3O4P
reactant | 4-propionylpyridine | 65.84 mmol, 8.90 g | C(CC)(=O)C1=CC=NC=C1 | C8H9NO
reactant | 4-hydrazinobenzoic acid | 27.60 mmol, 4.20 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
solvent | water | O | H2O
product | 2-pyridin-4-yl-1H-indole-5-carboxylic acid | quantitative yield | N1=CC=C(C=C1)C=1NC2=CC=C(C=C2C1)C(=O)O | C14H10N2O2
